US06110937
The 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenyl acetate (733 mg, 2.80 mmol) in methanol (10 mL) was treated with sodium metal and stirred at room temperature overnight. The solvent was removed and the residue partitioned between ethyl acetate and water. The organic layer was washed twice with brine and dried. The solvent was removed to give 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenol.

reactant | 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenyl acetate | 2.80 mmol, 733 mg | C(C)(=O)OC1=C(C=C(C=C1C)OCC(F)(F)F)C | C12H13F3O3
reactant | sodium | [Na] | Na
solvent | methanol | 10 mL | CO | CH4O
product | 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenol | CC1=C(C(=CC(=C1)OCC(F)(F)F)C)O | C10H11F3O2
